US06858638B2
N-(N-tert-Butoxycarbonyl-3-methyl-1H-indazol-5-yl)-3,4-dichlorobenzenesulfonamide can be obtained as described in Example 1 from 1 g of 5-amino-N-tert-butoxycarbonyl-3-methyl-1H-indazole, 50 ml of tetrahydrofuran, 1.15 ml of triethylamine and 1.1 g of 3,4-dichlorobenzenesulfonyl chloride. 0.8 g of N-(N-tert-butoxycarbonyl-3-methyl-1H-indazol-5-yl)-3,4-dichlorobenzenesulfonamide is thus obtained in the form of a white solid melting at 171° C.

reactant | 5-amino-N-tert-butoxycarbonyl-3-methyl-1H-indazole | 1 g | NC=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C | C13H17N3O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 3,4-dichlorobenzenesulfonyl chloride | 1.1 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | triethylamine | 1.15 ml | C(C)N(CC)CC | C6H15N
product | N-(N-tert-butoxycarbonyl-3-methyl-1H-indazol-5-yl)-3,4-dichlorobenzenesulfonamide | 0.8 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC(=C(C=C1)Cl)Cl)C | C19H19Cl2N3O4S
